US05180742
A THF solution (50 ml) of 2-bromo-3,5,6-trimethyl-1,4-dimethoxybenzene (10 g, 40 mmole) was cooled to -70° C. under an atmosphere of argon, and n-butyllithium (20%, hexane solution) was added dropwise to the solution, followed by stirring at -70° C. for 10 minutes. Subsequently, cuprous bromide (5.70 g, 40 mmole) was added to the mixed solution, and the temperature of the reaction solution was raised to 0° C. The reaction solution was cooled again to -70° C., and crotyl bromide (5.4 g, 40 mmole) was added. Stirring was effected until the reaction solution reached the room temperature, and the reaction was suspended by adding 100 ml of water. The reaction solution was extracted with IPE, and the organic layer was washed with water, dried and concentrated under reduced pressure. The residue was dissolved in THF (50 ml), and sodium boron hydride (1 g) was added to the solution. Boron trifluoride etherate (1.5 ml) was added dropwise to the reaction solution, and after stirring was effected for 1 hour and 50 ml of water was added, 3N aqueous potassium hydroxide solution (50 ml) was added dropwise to the mixed solution. 30% Aqueous hydrogen peroxide solution was added to the reaction solution under cooling, followed by stirring under the same conditions for 18 hours. The reaction solution was extracted with IPE, and the organic layer was washed with water, dried and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluting solution: IPE) to give 3-(3,5,6-trimethyl-1,4-dimethoxyphenyl)-butan -1-ol (3 g, 30%). δ3.67(3H,s), 3.62(3H,s), 3.49(2H,m), 2.27(3H,s), 2.17 (3H,s), 2.02(2H,m), 1.37(3H,d,7Hz)

reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | 2-bromo-3,5,6-trimethyl-1,4-dimethoxybenzene | 40 mmole, 10 g | BrC1=C(C(=C(C(=C1C)OC)C)C)OC | C11H15BrO2
reactant | n-butyllithium | C(CCC)[Li]
reactant | crotyl bromide | 40 mmole, 5.4 g | C(C=CC)Br | C4H7Br
solvent | water | 100 ml | O | H2O
product | 3-(3,5,6-trimethyl-1,4-dimethoxyphenyl)-butan -1-ol | 3 g, 30% | CC=1CC(C(=C(C1OC)C)C)(OC)C(CCO)C | C15H26O3
